US07678924B2
A mixture of 4.16 g of 3-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester (20 mmol) and 10 ml of trimethyl phosphate (86.4 mmol) is stirred at a temperature of 180° C. for 16 hours. 200 ml of an ice-water mixture are then added. The resulting reaction product is filtered, washed with water and dissolved in 50 ml of ethyl acetate. The organic phase is washed twice with 50 ml of saturated sodium chloride solution each time and dried over sodium sulfate and concentrated by evaporation. 4.0 g (90% of theory) of 3-trifluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester are obtained in the form of crystals (m.p. 55-57° C.).

reactant | 3-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 20 mmol, 4.16 g | C(C)OC(=O)C=1C(=NNC1)C(F)(F)F | C7H7F3N2O2
reactant | trimethyl phosphate | 86.4 mmol, 10 ml | P(=O)(OC)(OC)OC | C3H9O4P
product | 3-trifluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 4.0 g, 90% | C(C)OC(=O)C=1C(=NN(C1)C)C(F)(F)F | C8H9F3N2O2
